US07700641B2
D. Synthesis of methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate
A solution of methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate (17.1 g, 40.0 mmol) and paraformaldehyde (10.3 g, 330 mmol) in THF (500 mL) was degassed by bubbling through argon for 2 hours. To this solution was added lithium diisopropylamide solution (45.1 mL, 2 M solution, 90.0 mmol) slowly at −78° C. The mixture was stirred at ambient temperature overnight and quenched with saturated ammonium chloride solution. The mixtrue was concentrated in vacuo to remove THF followed by the addition of ethyl acetate (500 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was recrystallized from ethyl acetate/hexanes to give the title compound (13.7 g, 75%): 1H NMR (300 MHz, DMSO-d6) δ 9.20 (s, 1H), 7.95 (dd, 1H), 7.53-7.33 (m, 3H), 7.08-6.82 (m, 4H), 6.53 (d, 1H), 6.25 (s, 1H), 5.93-5.86 (m, 2H), 5.31-5.07 (m, 3H), 4.26-4.17 (m, 1H), 4.00-3.92 (m, 1H), 3.88 (s, 3H); MS (ES+) m/z 448.3 (M+1).

reactant | methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | 40.0 mmol, 17.1 g | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CC1=C(C(=O)OC)C=CC=C1)=O | C24H19NO6
reactant | paraformaldehyde | 330 mmol, 10.3 g | C=O | CH2O
reactant | lithium diisopropylamide | 90.0 mmol, 2 M, 45.1 mL | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | 13.7 g, 75% | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CC1=C(C(=O)OC)C=CC=C1)=O)CO | C25H21NO7
